US07579341B2
A9d) ethyl(S)-4-methyl-piperazine-2-carboxylate
A suspension of 2.04 (6.66 mmol) 1-benzyl-2-ethyl(S)-4-methyl-piperazine-1,2-dicarboxylate and 200 mg 10% Pd/C in 100 mL EtOH was hydrogenated at 50° C. and 3447 hPa hydrogen pressure for 6 h. The catalyst was filtered off, the filtrate was evaporated to dryness i. vac. and the residue was further reacted without any purification.

reactant | 1-benzyl-2-ethyl(S)-4-methyl-piperazine-1,2-dicarboxylate | CN1C[C@H](N(CC1)C(=O)OCCCC1=CC=CC=C1)C(=O)[O-]
reactant | hydrogen | [H][H] | H2
reactant | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | ethyl(S)-4-methyl-piperazine-2-carboxylate | CN1C[C@H](NCC1)C(=O)OCC | C8H16N2O2
